US08008283B2
In a similar manner to Example 9, piretanide can be reacted with benzyltrimethylammonium hydroxide to yield benzyltrimethylammonium 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate.

reactant | piretanide | C=1C=CC(=CC1)OC=2C(=CC(=CC2S(=O)(=O)N)C(=O)O)N3CCCC3 | C17H18N2O5S
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | benzyltrimethylammonium 3-aminosulfonyl-4-phenoxy-5-(1-pyrrolidinyl)benzoate | NS(=O)(=O)C=1C=C(C(=O)[O-])C=C(C1OC1=CC=CC=C1)N1CCCC1.C(C1=CC=CC=C1)[N+](C)(C)C | InChI=1S/C17H18N2O5S.C10H16N/c18-25(22,23)15-11-12(17(20)21)10-14(19-8-4-5-9-19)16(15)24-13-6-2-1-3-7-13;1-11(2,3)9-10-7-5-4-6-8-10/h1-3,6-7,10-11H,4-5,8-9H2,(H,20,21)(H2,18,22,23);4-8H,9H2,1-3H3/q;+1/p-1
